US06124313
B3. 3-Chloro-2-methyl-8-(6-methyl-2-nitrobenzylamino)imidazo[1,2-a] pyridine
Starting from 8-amino-3-chloroimidazo[1,2-a]pyridine (9.26 g), 6-methyl-2-nitrobenzyl chloride (10.5 g), sodium carbonate (13.7 g) and sodium iodide (8.55 g) in acetone (380 ml) according to the procedure indicated in Example B1 gives, after chromatography on silica gel (eluent: toluene/dioxane=20:1) and crystallization from ethyl acetate/cyclohexane, 10.6 g (63%) of the title compound of m.p. 142-144° C.

reactant | 8-amino-3-chloroimidazo[1,2-a]pyridine | 9.26 g | NC=1C=2N(C=CC1)C(=CN2)Cl | C7H6ClN3
reactant | 6-methyl-2-nitrobenzyl chloride | 10.5 g | CC1=CC=CC(=C1CCl)[N+](=O)[O-] | C8H8ClNO2
reactant | sodium carbonate | 13.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 8.55 g | [I-].[Na+]
solvent | acetone | 380 ml | CC(=O)C | C3H6O
product | 3-Chloro-2-methyl-8-(6-methyl-2-nitrobenzylamino)imidazo[1,2-a] pyridine | ClC1=C(N=C2N1C=CC=C2NCC2=C(C=CC=C2C)[N+](=O)[O-])C | C16H15ClN4O2
